US09403801B2
Step 11) tert-butyl 8-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (3.9 B)
To a suspension of tert-butyl 8-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (3.8 B: 0.30 g, 0.72 mmol) in n-BuOH (4.0 mL) was added 1-methyl-1H-pyrazol-4-amine hydrochloride (0.19 g, 1.44 mmol) and DIPEA (0.37 g, 2.89 mmol). The mixture was stirred in a sealed tube and heated to 150° C. for 12 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (EA/PE (v/v)=4/1) to afford 3.9 B as a light yellow solid (0.19 g, 55%).

reactant | tert-butyl 8-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.72 mmol, 0.30 g | ClC1=NC=C(C(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C)Cl | C19H28Cl2N4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.44 mmol, 0.19 g | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 2.89 mmol, 0.37 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 4.0 mL | CCCCO | C4H10O
product | tert-butyl 8-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.19 g, 55% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C23H34ClN7O2
